* C:\Git\MEng-CW\IB\labs\spectrum_analysis\LTSpice_circuit\demodulator.asc
V1 N003 0 SINE(0 0.32 9000)
V2 N002 N003 SINE(0 1 8000)
V3 N001 N002 SINE(0 0.32 7000)
C1 TP1 0 5n
R1 TP1 0 100k
D1 N001 TP1 D
R2 out TP1 150k
C2 out 0 1n
.model D D
.lib C:\Users\louis\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.003
.backanno
.end
